US06326386B1
3-Chloro-N-isopropyl-5-methoxy-N-[2-(1-methyl-1H-tetrazol-5-yl)ethyl]-benzamide
To a stirred solution of 3-chloro-N-isopropyl-5-methoxy-N-(2-methylcarbamoyl-ethyl)-benzamide (0.312 g) in anhydrous dichloromethane (5.0 ml) was added sodium azide (0.065 g) and the mixture cooled to 0° C. Trifluoromethanesulphonic anhydride (0.200 ml) was added and the reaction stirred at room temperature for 18 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was removed and the organic layer dried with brine and over sodium sulphate and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with ethyl acetate:petroleum ether (4:1 v/v); to give the title compound as a white solid (0.121 g).

reactant | 3-chloro-N-isopropyl-5-methoxy-N-(2-methylcarbamoyl-ethyl)-benzamide | 0.312 g | ClC=1C=C(C(=O)N(CCC(NC)=O)C(C)C)C=C(C1)OC | C15H21ClN2O3
reactant | sodium azide | 0.065 g | [N-]=[N+]=[N-].[Na+]
reactant | Trifluoromethanesulphonic anhydride | 0.200 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-isopropyl-5-methoxy-N-[2-(1-methyl-1H-tetrazol-5-yl)ethyl]-benzamide | 0.121 g | ClC=1C=C(C(=O)N(CCC2=NN=NN2C)C(C)C)C=C(C1)OC | C15H20ClN5O2
